US04406841
For example, when 3-chloro-2,6-difluorobenzonitrile is dissolved in methanol and reacted with hydrogen gas in the presence of palladium-carbon catalyst and triethylamine under the hydrogen pressure of 5 kg/cm2, the DFBN is obtainable. The DFBN is then heated and dissolved at 70° C. and dropwise added to 90% sulfuric acid, and the reaction is performed at 70° to 80° C. to obtain a 2,6-difluorobenzamide. The product is then dissolved in 1,2-dichloroethane and an oxyalyl chloride is dropwise added to the solution at 20° to 40° C., and the reaction is performed under reflux to obtain 2,6-difluorobenzoyl isocyanate. A dioxane solution of 3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy) aniline is dropwise added to a dioxane solution of the isocyanate at 40° to 50° C. and the reaction was performed to obtain N-(2,6-difluorobenzoyl)-N'-[3,5-dichloro-4-(3-chloro-5-trifluoromethyl-2-pyridyloxy)phenyl]urea having a melting point of 203° to 205° C. This derivative is effective to combat a various kinds of undesirable insects, as disclosed in the Japanese Unexamined Patent Publication 125677/1979, U.S. Pat. Nos. 4,173,637, 4,173,638 and 4,310,530.

reactant | 3-chloro-2,6-difluorobenzonitrile | ClC=1C(=C(C#N)C(=CC1)F)F | C7H2ClF2N
reactant | hydrogen | [H][H] | H2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | methanol | CO | CH4O
catalyst | palladium-carbon | [C].[Pd]
product | 2,6-difluorobenzamide | FC1=C(C(=O)N)C(=CC=C1)F | C7H5F2NO
